US08383635B2
(4R)—N-[3-({4-[(3-methylphenyl)amino]-5-oxo-5,6-dihydropyrido[4,3-d]pyrimidin-2-yl}amino)propyl]-2-oxo-1,3-thiazolidine-4-carboxamide (N4534-5)
The compound was prepared from 2-[(3-aminopropyl)amino]-4-[(3-methylphenyl)amino]pyrido[4,3-d]pyrimidin-5(6H)-one and (4R)—N-(3-aminopropyl)-2-oxo-1,3-thiazolidine-4-carboxamide using the procedure similar to that described for Example

reactant | 2-[(3-aminopropyl)amino]-4-[(3-methylphenyl)amino]pyrido[4,3-d]pyrimidin-5(6H)-one | NCCCNC=1N=C(C2=C(N1)C=CNC2=O)NC2=CC(=CC=C2)C | C17H20N6O
reactant | (4R)—N-(3-aminopropyl)-2-oxo-1,3-thiazolidine-4-carboxamide | NCCCNC(=O)[C@H]1NC(SC1)=O | C7H13N3O2S
product | (4R)—N-[3-({4-[(3-methylphenyl)amino]-5-oxo-5,6-dihydropyrido[4,3-d]pyrimidin-2-yl}amino)propyl]-2-oxo-1,3-thiazolidine-4-carboxamide | CC=1C=C(C=CC1)NC=1C2=C(N=C(N1)NCCCNC(=O)[C@H]1NC(SC1)=O)C=CNC2=O | C21H23N7O3S
